US05073551
(Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetic acid (1.58 g, 2.35 mmol) was dissolved in a mixed solvent of THF-methylene chloride (20 ml-10 ml) and cooled to 5° C. HOBT (0.32 g, 2.4 mmol) was added to this reaction solution, then DCC (0.50 g, 2.4 mmol) was added and the mixture was stirred at the same temperature for 2 hours. The reaction solution was filtered, then benzhydryl 7-amino-3-[(Z)-2-(4-methyl-1,2,3-thiadiazol-5-yl)vinyl]-3-cephem-4-carboxylate (0.98 g, 2.0 mmol) was added to the filtrate and it was stirred at 5° C. for 22 hours. The reaction solution was concentrated and then the concentrate was purified by column chromatography thereby benzhydryl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-[(Z)-2-(4-methyl-1,2,3-thiadiazol-5-yl)vinyl]-3-cephem-4-carboxylate (1.38 g, 60.5% yield) was obtained as a yellow powdered compound.

reactant | (Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetic acid | 2.35 mmol, 1.58 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C43H33N3O3S
reactant | HOBT | 2.4 mmol, 0.32 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 2.4 mmol, 0.50 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | benzhydryl 7-amino-3-[(Z)-2-(4-methyl-1,2,3-thiadiazol-5-yl)vinyl]-3-cephem-4-carboxylate | 2.0 mmol, 0.98 g | NC1[C@@H]2N(C(=C(CS2)\C=C/C2=C(N=NS2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C25H22N4O3S2
solvent | THF methylene chloride | 20 ml-10 ml | C1CCOC1.C(Cl)Cl
product | benzhydryl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-[(Z)-2-(4-methyl-1,2,3-thiadiazol-5-yl)vinyl]-3-cephem-4-carboxylate | 1.38 g, 60.5% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/C2=C(N=NS2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C68H53N7O5S3
